US09428456B2
(2.001c): 1-[3-(4-Chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid ethyl ester
A mixture of 4-chloro-N-(3-formyl-phenyl)-benzamide (2.1 g, 8.09 mmol), ethyl isonipecotate (1.53 g, 9.55 mmol) in DCM (45 mL) is treated with sodium triacetoxy borohydride (2.5 g, 11.2 mmol) in 5 portions over 20 min. and the reaction mixture is stirred for 18 h at RT. Aq. sat. NaHCO3 (20 mL) is added and the mixture is stirred for 30 min. The phases are separated and the aqueous phase is extracted twice with DCM (50 ml). The combined organic phases are dried over MgSO4 and evaporated. The title compound is obtained as a colorless solid (3.24 g, 98%); LC-MS A: tR=0.72 min; [M+H]+=401.01.

reactant | 4-chloro-N-(3-formyl-phenyl)-benzamide | 8.09 mmol, 2.1 g | ClC1=CC=C(C(=O)NC2=CC(=CC=C2)C=O)C=C1 | C14H10ClNO2
reactant | ethyl isonipecotate | 9.55 mmol, 1.53 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | sodium triacetoxy borohydride | 11.2 mmol, 2.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-Chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)CC1=CC(=CC=C1)NC(C1=CC=C(C=C1)Cl)=O | C22H25ClN2O3
